US06127360
Synthesis of 1-(2-quinolylcarbonyl)piperazine
1-(2-Quinolylcarbonyl)piperazine hydrochloride (6.18 g, 22.2 mmol) was dissolved in water. The thus-obtained solution was rendered basic with a concentrated aqueous solution of sodium hydroxide. The resulting mixture was extracted with chloroform, and the extract was washed with an aqueous solution of sodium chloride and then dried over anhydrous magnesium sulfate. The solvent was distilled off, whereby 4.236 g of the title compound were obtained as a colorless oil (yield: 79.1%).

reactant | 1-(2-Quinolylcarbonyl)piperazine hydrochloride | 22.2 mmol, 6.18 g | Cl.N1=C(C=CC2=CC=CC=C12)C(=O)N1CCNCC1
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 1-(2-quinolylcarbonyl)piperazine | 4.236 g | N1=C(C=CC2=CC=CC=C12)C(=O)N1CCNCC1 | C14H15N3O
